US07067658B2
(R)-(1-Cyclopropyl-propyl)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-amine (0.17 g, 0.47 mmol) and Na2S2O4 (1.24 g, 7.10 mmol) were treated as in Part E of Example 9 to give 0.15 g (98%) crude (R)-N2-(1-Cyclopropyl-propyl)-4-(5-fluoro-4-methoxy-2-methyl-phenyl)-pyridine-2,3-diamine.

reactant | (R)-(1-Cyclopropyl-propyl)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-amine | 0.47 mmol, 0.17 g | C1(CC1)[C@@H](CC)NC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C(=C1)F)OC)C | C19H22FN3O3
reactant | Na2S2O4 | 7.10 mmol, 1.24 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | (R)-N2-(1-Cyclopropyl-propyl)-4-(5-fluoro-4-methoxy-2-methyl-phenyl)-pyridine-2,3-diamine | 0.15 g, 98% | C1(CC1)[C@@H](CC)NC1=NC=CC(=C1N)C1=C(C=C(C(=C1)F)OC)C | C19H24FN3O
